US05034393
4-[2-[4-(t-butyl)phenyl]ethylamino]pyrido-[4,3-d]pyrimidine
A mixture consisting of 0.45 g of pyrido-[4,3-d]pyrimidine-4-ol, 0.53 g of 2-[4-(t-butyl)phenyl]ethylamine, about 40 mg of (NH4)2SO4 in 4 mL of hexamethyldisilazane was refluxed for about five hours. The mixture was then cooled and excess disilazane was removed in vacuo. The residue was dissolved in CH2Cl2, and the solution was washed with water and filtered through phase separating paper. Evaporated the CH2Cl2 and adsorbed the residue onto silica gel, which was applied to a thin silica pad and eluted with CH2Cl2 →50% EtOAc/50% CH2Cl2EtOAc. Fractions containing the major product were combined and the product which crystallized was recrystallized from hexane/EtOAc. Yield 0.2 g. M.P. 157-158° C.

reactant | pyrido-[4,3-d]pyrimidine-4-ol | 0.45 g | N1=CN=C(C2=C1C=CN=C2)O | C7H5N3O
reactant | 2-[4-(t-butyl)phenyl]ethylamine | 0.53 g | C(C)(C)(C)C1=CC=C(C=C1)CCN | C12H19N
solvent | hexamethyldisilazane | 4 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | 4-[2-[4-(t-butyl)phenyl]ethylamino]pyrido-[4,3-d]pyrimidine | C(C)(C)(C)C1=CC=C(C=C1)CCNC=1C2=C(N=CN1)C=CN=C2 | C19H22N4
